US07846960B2
2′-Bromo-4′-hydroxy-biphenyl-4-carboxylic Acid Methyl Ester
To a 0° C. solution of 2′-bromo-4′-methoxy-biphenyl-4-carboxylic acid methyl ester (0.200 g) in methylene chloride (5 mL) is added boron tribromide (0.176 mL). The reaction mixture is maintained at 0° C. for 2 h. The reaction mixture is slowly quenched with 50 mL methanol, diluted with 150 mL 2N hydrochloric acid, and extracted three times with methylene chloride. The combined organic layers are dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford the title compound (0.180 g, 94%).

reactant | 2′-bromo-4′-methoxy-biphenyl-4-carboxylic acid methyl ester | 0.200 g | COC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)OC)Br | C15H13BrO3
reactant | boron tribromide | 0.176 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2′-Bromo-4′-hydroxy-biphenyl-4-carboxylic Acid Methyl Ester | 0.180 g, 94% | COC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)O)Br | C14H11BrO3
